US06642389B2
b] 2-(4-Methoxy-benzyloxy)-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzaldehyde
A mixture of 2-hydroxy-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzaldehyde (54 mg, 0.167 mmol), 4-methoxy-benzylchloride (58 mg, 0.368 mmol), KOH (56 mg, 1 mmol) and tetrabutylammonium-hydrogensulfate (50 mg) in 6 ml toluene and 5 ml water was heated at 80° C. during 6 hours. The reaction mixture was then cooled to 0° C., washed with water/ice and brine, the aqueous layer extracted with AcOEt, the combined organic layers dried over Na2SO4 and evaporated. The crude product was purified by chromatography (SiO2; AcOEt/heptane) and the product was crystallized from heptane to yield 25 mg (34%) as a white solid.

reactant | 2-hydroxy-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzaldehyde | 0.167 mmol, 54 mg | OC1=C(C=O)C=CC(=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1 | C19H17NO4
reactant | 4-methoxy-benzylchloride | 0.368 mmol, 58 mg | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | KOH | 1 mmol, 56 mg | [OH-].[K+]
catalyst | tetrabutylammonium hydrogensulfate | 50 mg | C(CCC)[N+](CCCC)(CCCC)CCCC.S(=O)(=O)(O)[O-]
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 5 ml | O | H2O
product | 2-(4-Methoxy-benzyloxy)-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzaldehyde | COC1=CC=C(COC2=C(C=O)C=CC(=C2)OCCC=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C27H25NO5
